US04609485
A mixture of 2-(p-bromophenyl)-5'-pentyl-5,2'-bipyrimidinyl (5.0 g, 0.013 mol), N-methyl-2-pyrrolidone (100 mL) and cuprous cyanide (1.16 g, 0.013 mol) was heated under reflux for 5 hours, followed by cooling the reaction mixture down to 40° C., adding toluene (500 ml) and 28% aqueous ammonia (100 ml), separating the resulting layers, washing the toluene layer with water till the washing water became neutral, drying the toluene layer over anhydrous sodium sulfate, distilling off toluene, and three times recrystallizing the residual solids from toluene to obtain 2-(p-cyanophenyl)-5'-pentyl-5,2'-bipyrimidinyl (2.1 g, 0.006 mol).

reactant | 2-(p-bromophenyl)-5'-pentyl-5,2'-bipyrimidinyl | 0.013 mol, 5.0 g | BrC1=CC=C(C=C1)C1=NC=C(C=N1)C1=NC=C(C=N1)CCCCC | C19H19BrN4
reactant | N-methyl-2-pyrrolidone | 100 mL | CN1C(CCC1)=O | C5H9NO
reactant | ammonia | 100 ml | N | H3N
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(p-cyanophenyl)-5'-pentyl-5,2'-bipyrimidinyl | 0.006 mol, 2.1 g | C(#N)C1=CC=C(C=C1)C1=NC=C(C=N1)C1=NC=C(C=N1)CCCCC | C20H19N5
